US05173493
To a solution of 7-[(acetoxy)(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-8,9-dihydropyrido[1,2-a]indol-6(7H)-one in toluene (30 ml) at room temperature was added 1,8-diazabicyclo[5.4.0]undec-7-ene (762 mg). After being stirred at 55° C. for 2 hours, the solution was evaporated in vacuo. The residue was diluted with chloroform, washed with water, and dried over anhydrous magnesium sulfate. After evaporation of the solvent, the residue obtained was purified with silica gel column chromatography (eluent:chloroform) to give 8,9-dihydro-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methylene]pyrido[1,2-a]indol-6(7H)-one (1.3 g).

reactant | 7-[(acetoxy)(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-8,9-dihydropyrido[1,2-a]indol-6(7H)-one | C(C)(=O)OC(C1CCC=2N(C3=CC=CC=C3C2)C1=O)C=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H33N3O3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 762 mg | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 8,9-dihydro-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methylene]pyrido[1,2-a]indol-6(7H)-one | 1.3 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C1CCC=2N(C3=CC=CC=C3C2)C1=O | C36H29N3O
